US06399629B1
(E) trans-4-Amino-N-tert-Butoxycarbonyl-L-Proline 3-Quinolylamide
A mixture of trans-4-azido-N-tert-butoxycarbonyl-L-proline 3-quinolylamide (D, 526 mg) and 10% palladium on activated carbon (102 mg) in methanol (15 mL) was stirred at room temperature for 4 hr under hydrogen. The catalysts were removed by filtration and washed with methanol. The combined organic layers were evaporated in vacuo. The residue was purified by silica gel column chromatography (chloroform:methanol=20:1 to 5: 1, v/v) to afford the title compound (477 mg) as a colorless sticky oil.

reactant | trans-4-azido-N-tert-butoxycarbonyl-L-proline 3-quinolylamide | 526 mg | N1=CC(=CC2=CC=CC=C12)NC([C@H]1N(C[C@@H](C1)N=[N+]=[N-])C(=O)OC(C)(C)C)=O | C19H22N6O3
catalyst | palladium on activated carbon | 102 mg | [Pd] | Pd
solvent | methanol | 15 mL | CO | CH4O
product | trans-4-Amino-N-tert-Butoxycarbonyl-L-Proline 3-Quinolylamide | 477 mg | N1=CC(=CC2=CC=CC=C12)NC([C@H]1N(C[C@@H](C1)N)C(=O)OC(C)(C)C)=O | C19H24N4O3
